US07838675B2
i) 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-pyrimidine
To a solution of 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step ii) (2 g) in THF (20 mL) was added potassium tert-butoxide (0.8 g) and the reaction mixture was stirred at ambient temperature for 20 h. Further potassium tert-butoxide (0.8 g) was added and the reaction mixture was stirred at ambient temperature for 4 h. The mixture was diluted with H2O and extracted with EtOAc (×3). The combined organic layers were washed with H2O and dried (MgSO4), filtered and evaporated. The resulting oil was purified by column chromatography on silica gel using MeOH/DCM (99:1 to 98:2 gradient) as eluent to give the subtitle compound as a clear, colourless oil. Yield: 0.68 g

reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | potassium tert-butoxide | 0.8 g | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.8 g | CC(C)([O-])C.[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-pyrimidine | ClC1=NC(=NC(=C1)OC(C)(C)C)SCC1=C(C(=CC=C1)F)F | C15H15ClF2N2OS
